US08614213B2
Step 2: Trans-2-Chloro-N-{-4-[(5-dimethylaminomethyl-pyridin-2-ylamino)-methyl]-cyclohexyl}-5-trifluoromethyl-benzamide hydrochloride
The title compound is prepared from Trans-2-Chloro-N-{-4-[(5-formyl-pyridin-2-ylamino)-methyl]-cyclohexyl}-5-trifluoromethyl-benzamide and dimethylamine hydrochloride analogously to Example 1.

reactant | Trans-2-Chloro-N-{-4-[(5-formyl-pyridin-2-ylamino)-methyl]-cyclohexyl}-5-trifluoromethyl-benzamide | ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)CNC2=NC=C(C=C2)C=O)C=C(C=C1)C(F)(F)F | C21H21ClF3N3O2
reactant | dimethylamine hydrochloride | Cl.CNC
product | Trans-2-Chloro-N-{-4-[(5-dimethylaminomethyl-pyridin-2-ylamino)-methyl]-cyclohexyl}-5-trifluoromethyl-benzamide hydrochloride | Cl.ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)CNC2=NC=C(C=C2)CN(C)C)C=C(C=C1)C(F)(F)F | InChI=1S/C23H28ClF3N4O.ClH/c1-31(2)14-16-5-10-21(29-13-16)28-12-15-3-7-18(8-4-15)30-22(32)19-11-17(23(25,26)27)6-9-20(19)24;/h5-6,9-11,13,15,18H,3-4,7-8,12,14H2,1-2H3,(H,28,29)(H,30,32);1H/t15-,18-;
